US08895582B2
To a solution of [(S)-3-Benzyloxy-2-(tert-butoxycarbonyl-methyl-amino)-propyl]-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester (2.42 g, 5.28 mmol) in MeOH (20 mL) and AcOH (2.0 mL) was added Pd/C (10%, 1.0 g). The reaction mixture was transferred to an autoclave and charged with hydrogen (50 psi). The mixture was stirred RT for 20 h and filtered. The filtrated was concentrated and the residue was purified on silica gel using a mixture of EtOAc and hexanes to give [(S)-2-(tert-Butoxycarbonyl-methyl-amino)-3-hydroxy-propyl]-(2,2-difluoro-ethyl)-carbamic acid tert-butylester (1.81 g, 93%). LRMS (M+Na+) m/z 391.2.

reactant | [(S)-3-Benzyloxy-2-(tert-butoxycarbonyl-methyl-amino)-propyl]-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester | 5.28 mmol, 2.42 g | C(C)(C)(C)OC(N(CC(F)F)C[C@@H](COCC1=CC=CC=C1)N(C)C(=O)OC(C)(C)C)=O | C23H36F2N2O5
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 20 mL | CO | CH4O
solvent | AcOH | 2.0 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | [(S)-2-(tert-Butoxycarbonyl-methyl-amino)-3-hydroxy-propyl]-(2,2-difluoro-ethyl)-carbamic acid tert-butylester | 1.81 g, 93% | C(C)(C)(C)OC(N(CC(F)F)C[C@@H](CO)N(C)C(=O)OC(C)(C)C)=O | C16H30F2N2O5
